US09422232B2
Ethyl trifluoroacetate (14.1 g; 0.1 mol) was added dropwise to 3-amino-1-propanol (6 g; 0.08 mol) cooled to 0° C. The mixture was stirred at 0° C. for 60 min; the completion of the reaction was confirmed by a negative Ninhydrin test. Volatiles were removed by rotary evaporation and the residue purified by vacuum distillation to provide N-(3-hydroxypropyl)trifluoroacetamide as a clear, viscous liquid in a yield of 13.4 g (98%). 1H-NMR (500 MHz, CDCl3): δ=3.52-3.57 ppm (m, 2H), 2.17 ppm (bs, 1H), 3.54 ppm (dt, J=6.0, 6.0 Hz, 2H), 3.81 ppm (t, J=5.5 Hz, 2H), 7.28 ppm (bs, 1H), 13C-NMR (500 MHz, CDCl3): δ=30.42, 38.35, 61.05, 115.93 ppm (q, J=1142 Hz), 157.76 ppm (q, J=150 Hz).

reactant | Ethyl trifluoroacetate | 0.1 mol, 14.1 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 3-amino-1-propanol | 0.08 mol, 6 g | NCCCO | C3H9NO
reactant | Ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
product | N-(3-hydroxypropyl)trifluoroacetamide | OCCCNC(C(F)(F)F)=O | C5H8F3NO2
